US08242129B2
6-(4-amino-2-methylphenyl)-4-(4-hydroxy-3-methylphenyl)pyridin-2(1H)-one
In a round bottom flask was added (E)-N-(3-methyl-4-(3-(3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)phenyl)acryloyl)phenyl)acetamide (100 mg, 0.25 mmol), DMF (2.0 mL), Cs2CO3 (200 mg), and 2-acetamidoacetamide (180 mg, 1.55 mmol). The reaction mixture was heated to 140° C. for 1 h, cooled down to room temperature, filtered, and concentrated down under reduced pressure.

reactant | (E)-N-(3-methyl-4-(3-(3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)phenyl)acryloyl)phenyl)acetamide | 0.25 mmol, 100 mg | CC=1C=C(C=CC1C(\C=C\C1=CC(=C(C=C1)OC1OCCCC1)C)=O)NC(C)=O | C24H27NO4
reactant | Cs2CO3 | 200 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-acetamidoacetamide | 1.55 mmol, 180 mg | C(C)(=O)NCC(=O)N | C4H8N2O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 6-(4-amino-2-methylphenyl)-4-(4-hydroxy-3-methylphenyl)pyridin-2(1H)-one | NC1=CC(=C(C=C1)C1=CC(=CC(N1)=O)C1=CC(=C(C=C1)O)C)C | C19H18N2O2
